US06956052B2
8-[(2-chlorobenzoyl)amino]-1-{4-[(methylamino)sulfonyl]phenyl}-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide
A solid of 1-(4-{[acetyl(methyl)amino]sulfonyl}phenyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide was dissolved in 0.5 N solution of NaOH in EtOH (3 mL) and stirred at room temperature for 2 h. A suspension was formed. It was filtered and washed to give the desired compound (29 mg, 53%.) IKK-2 resin IC50≦1 μM.

reactant | 1-(4-{[acetyl(methyl)amino]sulfonyl}phenyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | C(C)(=O)N(S(=O)(=O)C1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)C(=O)N)C | C28H24ClN5O5S
solvent | NaOH | [OH-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 8-[(2-chlorobenzoyl)amino]-1-{4-[(methylamino)sulfonyl]phenyl}-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 29 mg, 53% | ClC1=C(C(=O)NC2=CC3=C(CCC=4C(=NN(C34)C3=CC=C(C=C3)S(=O)(=O)NC)C(=O)N)C=C2)C=CC=C1 | C26H22ClN5O4S
